* source BR0101_AD9286
V_V2         N01656 0 5V
X_U1         N01442 N01526 N01434 N01518 N01656 N01468 N01532 N01538 N01646
+  ADA4937 
V_V4         N01646 0 2.5V
R_R3         N01518 N01526  200 TC=0,0 
R_R5         N01546 N01434  200 TC=0,0 
R_R8         N01532 N01538  1G TC=0,0 
R_R6         0 N01546  61.9 TC=0,0 
V_V3         0 N01468 0Vdc
R_R1         N01628 N01518  200 TC=0,0 
R_R4         0 N01628  27.5 TC=0,0 
R_R7         N01434 N01442  200 TC=0,0 
R_R9         N01981 N01546  50 TC=0,0 
V_V5         0 N01981 DC 0Vdc AC 1Vac 
