* source BR0101_AD9286
X_U1         N00605 N00467 N00584 N00405 N00767 N00817 N00925 N00929 N00869
+  ADA4937 
R_R1         N00409 N00405  84.5k TC=0,0 
R_R2         N00413 N00409  84.5k TC=0,0 
R_R3         N00405 N00467  84.5k TC=0,0 
R_R4         0 N00409  21k TC=0,0 
R_R5         N00588 N00584  84.5k TC=0,0 
R_R6         0 N00588  16.9k TC=0,0 
R_R7         N00584 N00605  84.5k TC=0,0 
V_V1         N00413 0 -3.6V
V_V2         N00767 0 5V
V_V3         0 N00817 0Vdc
V_V4         N00869 0 1.4V
R_R8         N00925 N00929  1G TC=0,0 
