* source BR0101_AD9286
V_V3         0 N02333 0Vdc
R_R7         N02299 N02307  {x} TC=0,0 
V_V2         N02523 0 5V
R_R5         N02411 N02299  {x} TC=0,0 
R_R6         0 N02411  16.8199k TC=0,0 
R_R2         N02477 N02487  21k TC=0,0 
R_R4         0 N02487  84.5k TC=0,0 
V_V4         N02513 0 1.4V
R_R1         N02487 N02383  {x} TC=0,0 
R_R8         N02397 N02403  1G TC=0,0 
R_R3         N02383 N02391  {x} TC=0,0 
X_U1         N02307 N02391 N02299 N02383 N02523 N02333 N02397 N02403 N02513
+  ADA4937 
V_Vi         N02477 0 0V
.PARAM  x=200
