* source BR0101_AD9286
R_R4         0 N01622  21k TC=0,0 
V_V1         N01612 0 {x}
R_R6         0 N01546  16.9k TC=0,0 
R_R7         N01434 N01442  84.5k TC=0,0 
V_V2         N01656 0 5V
R_R8         VO+ VO-  1G TC=0,0 
R_R3         N01518 N01526  84.5k TC=0,0 
R_R2         N01612 N01622  84.5k TC=0,0 
R_R5         N01546 N01434  84.5k TC=0,0 
V_V3         0 N01468 0Vdc
R_R1         N01622 N01518  84.5k TC=0,0 
V_V4         N01646 0 1.4V
X_U1         N01442 N01526 N01434 N01518 N01656 N01468 VO+ VO- N01646 ADA4937 
.PARAM  x=1
