* source BR0101_AD9239
R_R2         N04189 N04199  17.4k TC=0,0 
V_V4         N04225 0 1.4V
R_R3         N04091 N04099  3.9k TC=0,0 
V_V3         0 N04041 0Vdc
X_U1         N04015 N04099 N04007 N04091 N04235 N04041 VO+ VO- N04225 ADA4937 
V_V5         N04189 0 DC 0Vdc AC 3.6V 
R_R4         0 N04199  57.6k TC=0,0 
R_R1         N04199 N04091  3.9k TC=0,0 
R_R6         0 N04121  13.3k TC=0,0 
V_V2         N04235 0 5V
R_R5         N04121 N04007  3.9k TC=0,0 
R_R7         N04007 N04015  3.9k TC=0,0 
R_R8         VO+ VO-  1G TC=0,0 
.PARAM  x=1
