* source BR0101_AD9286
V_V2         N03374 0 5V
R_R6         0 N03262  1.13k TC=0,0 
R_R5         N03262 N03148  261 TC=0,0 
R_R1         N03340 N03232  261 TC=0,0 
V_V4         N03364 0 1.4V
R_R7         N03148 N03156  261 TC=0,0 
V_V3         0 N03182 0Vdc
X_U1         N03156 N03240 N03148 N03232 N03374 N03182 VO+ VO- N03364 ADA4937 
R_R3         N03232 N03240  261 TC=0,0 
R_R8         VO+ VO-  1G TC=0,0 
R_R4         0 N03340  10k TC=0,0 
R_R2         N03330 N03340  1.27k TC=0,0 
V_V5         N03330 0 DC 0Vdc AC 3.6V 
.PARAM  x=1
