* source BR0101_AD9239
R_R6         0 N04988  13.3k TC=0,0 
X_U1         N04882 N04966 N04874 N04958 N05104 N04908 VO+ VO- N05094 ADA4937 
R_R4         0 N05068  57.6k TC=0,0 
R_R2         N05058 N05068  17.4k TC=0,0 
R_R3         N04958 N04966  3.9k TC=0,0 
R_R1         N05068 N04958  3.9k TC=0,0 
V_V2         N05104 0 5V
R_R8         VO+ VO-  1G TC=0,0 
V_V4         N05094 0 1.4V
R_R5         N04988 N04874  3.9k TC=0,0 
V_V3         0 N04908 0Vdc
R_R7         N04874 N04882  3.9k TC=0,0 
V_Vi         N05058 0 0Vdc
.PARAM  x=1
