* source BR0101_AD9286
V_V2         N02523 0 5V
V_V3         0 N02331 0Vdc
R_R8         VO+ VO-  1G TC=0,0 
R_R4         0 N02489  10k TC=0,0 
R_R5         N02411 N02297  261 TC=0,0 
R_R3         N02381 N02389  261 TC=0,0 
V_V4         N02513 0 1.4V
R_R2         N02479 N02489  1.27k TC=0,0 
X_U1         N02305 N02389 N02297 N02381 N02523 N02331 VO+ VO- N02513 ADA4937 
R_R7         N02297 N02305  261 TC=0,0 
R_R6         0 N02411  1.13k TC=0,0 
R_R1         N02489 N02381  261 TC=0,0 
V_Vi         N02479 0 {x}
.PARAM  x=1
