* source BR0101_AD9715
V_V2         N20482 0 5V
X_U3         N20416 N20650 N20482 N20334 VON VON N20482 ADA4899 
R_R5         N20416 N20188  10k TC=0,0 
R_R4         0 N20650  681 TC=0,0 
V_V3         N20188 0 1V
R_R3         N20650 VON  1.8k TC=0,0 
R_R2         N20274 VOP  1.8k TC=0,0 
R_R1         0 N20274  681 TC=0,0 
X_U2         N20416 N20274 N20482 N20334 VOP VOP N20482 ADA4899 
V_V1         0 N20334 5V
I_I1         0 N20274 DC 0Adc AC 0Aac
+SIN 1mA 1mA 442k 0 0 0
I_I2         0 N20650 DC 0Adc AC 0Aac
+SIN 1mA 1mA 442k 0 0 180
