* source BR0101_AD9715
V_V2         VDD50 0 5V
V_V1         0 VDD-50 5V
R_R4         0 N15119  681 TC=0,0 
R_R5         N14885 N14657  10k TC=0,0 
R_R2         N14743 VOP  1.8k TC=0,0 
I_IN         0 N15119 DC 2mA  
X_U3         N14885 N15119 VDD50 VDD-50 VON VON DISABLE2 ADA4899 
R_R3         N15119 VON  1.8k TC=0,0 
I_IP         0 N14743 DC 0mA  
V_V3         N14657 0 1V
X_U2         N14885 N14743 VDD50 VDD-50 VOP VOP DISABLE1 ADA4899 
R_R1         0 N14743  681 TC=0,0 
R_R10         ODAP1ID N17853  4.7k TC=0,0 
R_R7         ODAP1ID N17831  4.7k TC=0,0 
R_R8         0 N17831  20k TC=0,0 
V_V4         ODAP1ID 0 5.0V
R_R9         DISABLE2 VDD50  4.7k TC=0,0 
R_R11         0 N17853  20k TC=0,0 
Q_Q2         DISABLE2 N17853 0 QbreakN 
Q_Q1         DISABLE1 N17831 0 QbreakN 
R_R6         DISABLE1 VDD50  4.7k TC=0,0 
