* source BR0101_AD9286
R_R1         N05064 N04956  1k TC=0,0 
R_R5         N04986 N04872  1k TC=0,0 
V_V4         N05090 0 1.4V
X_U1         N04880 N04964 N04872 N04956 N05100 N04906 VO+ VO- N05090 ADA4937 
R_R2         N05054 N05064  4.75k TC=0,0 
R_R8         VO+ VO-  1G TC=0,0 
V_V2         N05100 0 5V
R_R4         0 N05064  20k TC=0,0 
R_R3         N04956 N04964  1k TC=0,0 
R_R6         0 N04986  3.83k TC=0,0 
V_V3         0 N04906 0Vdc
R_R7         N04872 N04880  1k TC=0,0 
V_Vi         N05054 0 0
.PARAM  x=1
