* source BR0101_AD9715
R_R3         N15119 VON  1.8k TC=0,0 
X_U3         N14889 N15119 N14951 N14803 VON VON N14951 ADA4899 
X_U2         N14889 N14743 N14951 N14803 VOP VOP N14951 ADA4899 
V_V2         N14951 0 5V
R_R1         0 N14743  1.6k TC=0,0 
I_IN         0 N15119 DC {2m - x}  
V_V1         0 N14803 5V
R_R4         0 N15119  1.6k TC=0,0 
R_R2         N14743 VOP  1.8k TC=0,0 
I_IP         0 N14743 DC {x}  
R_R5         N14889 0  10k TC=0,0 
R_R6         0 N14743  1.6k TC=0,0 
R_R7         0 N15119  1.6k TC=0,0 
.PARAM  x=1m
