* source BR0101_AD9715
X_U2         N14641 N14727 N14935 N14787 VOP VOP N14935 ADA4899 
X_U3         N14641 N15103 N14935 N14787 VON VON N14935 ADA4899 
R_R3         N15103 VON  1.8k TC=0,0 
V_V2         N14935 0 5V
V_V3         N14641 0 1V
R_R1         0 N14727  1.6k TC=0,0 
I_IN         0 N15103 DC {2m - x}  
V_V1         0 N14787 5V
R_R2         N14727 VOP  1.8k TC=0,0 
R_R4         0 N15103  1.6k TC=0,0 
I_IP         0 N14727 DC {x}  
.PARAM  x=1m
