*ADA4899 Macro-model
*Function:Amplifier
*
*Revision History:
*Rev.3.0 Sep 2015-ZF
*Copyright 2015 by Analog Devices
*
*Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spicemodels/license
*for License Statement. Use of this model indicates your acceptance
*of the terms and provisions in the License Staement.
*
*Tested on MultSIm, SiMetrix(NGSpice), PSpice
*
*Not modeled: Distortion, PSRR, Overload Recovery,
*             Shutdown Turn On/Turn Off time
*
*Parameters modeled include:
*   Vos, Ibias, Input CM limits and Typ output voltge swing over full supply range,
*   Open Loop Gain & Phase, Slew Rate, Output current limits, Voltage & Current Noise over temp,
*   Capacitive load drive, Quiescent and dynamic supply currents,
*   Shut Down pin functionality where applicable,
*   Single supply & offset supply functionality.
*
*Node Assignments
*                Non-Inverting Input
*                |   Inverting Input
*                |   |   Positive supply
*                |   |   |   Negative supply
*                |   |   |   |   Output
*                |   |   |   |   |   FB
*                |   |   |   |   |   |   PD
*                |   |   |   |   |   |   |
*$
.Subckt ADA4899 100 101 102 103 104 105 106
*#ASSOC Category="Op-Amps" symbol=opamp_6_pd_fb
***Power Supplies***
Rz1    102    1020    Rideal    1e-6
Rz2    103    1030    Rideal    1e-6
R3    96    0    Rideal    1e3
S6    97    96    1020    1030    Sswitch
V2    97    0    dc    2
gBias    1020    1030    96    0    1.8e-3
DzPS    98    1020    diode
gQuies    1020    98    96    0    12.9e-3
S1    98    1030    106    113    Switch
R1    1020    99    Rideal    1e7
R2    99    1030    Rideal    1e7
e1    111    110    1020    110    1
e2    110    112    110    1030    1
e3    110    0    99    0    1
*
*
***Inputs***
S2    1    100    106    113    Switch
S3    9    101    106    113    Switch
VOS    1    2    dc    35e-6
IbiasP    110    2    dc    -6e-6
IbiasN    110    9    dc    -6e-6
RinCMP    110    2    Rideal    7.6e6
RinCMN    9    110    Rideal    7.6e6
CinCMP    110    2    1e-13
CinCMN    9    110    1e-13
IOS    9    2    0.1e-6
RinDiff    9    2    Rideal    4e3
CinDiff    9    2    3e-13
*
*
***Non-Inverting Input with Clamp***
g1    3    110    110    2    0.001
RInP    3    110    Rideal    1e3
RX1    40    3    Rideal    0.001
DInP    40    41    diode
DInN    42    40    diode
VinP    111    41    dc    1.76
VinN    42    112    dc    1.76
*
*
***Vnoise***
hVn    6    5    Vmeas1    707.10678
Vmeas1    20    110    DC    0
Vvn    21    110    dc    0.65
Dvn    21    20    DVnoisy
hVn1    6    7    Vmeas2    707.10678
Vmeas2    22    110    dc    0
Vvn1    23    110    dc    0.65
Dvn1    23    22    DVnoisy
*
*
***Inoise***
FnIN    9    110    Vmeas3    0.7071068
Vmeas3    51    110    dc    0
VnIN    50    110    dc    0.65
DnIN    50    51    DINnoisy
FnIN1    110    9    Vmeas4    0.7071068
Vmeas4    53    110    dc    0
VnIN1    52    110    dc    0.65
DnIN1    52    53    DINnoisy
*
FnIP    2    110    Vmeas5    0.7071068
Vmeas5    31    110    dc    0
VnIP    30    110    dc    0.65
DnIP    30    31    DIPnoisy
FnIP1    110    2    Vmeas6    0.7071068
Vmeas6    33    110    dc    0
VnIP1    32    110    dc    0.65
DnIP1    32    33    DIPnoisy
*
*
***CMRR***
RcmrrP    3    10    Rideal    1e12
RcmrrN    10    9    Rideal    1e12
g10    11    110    10    110    -1e-10
Lcmrr    11    12    1e-12
Rcmrr    12    110    Rideal    1e3
e4    5    3    11    110    1
*
*
***Power Down***
VPD    111    80    dc    2.4
VPD1    81    0    dc    0.1
RPD    111    106    Rideal    0.286e6
ePD    80    113    82    0    1
RDP1    82    0    Rideal    1e3
CPD    82    0    1e-10
S5    81    82    83    113    Switch
CDP1    83    0    1e-12
RPD2    106    83    1e6
*
*
***Feedback Pin***
RF    105    104    Rideal    0.001
*
*
***Gain Split***
g200    200    110    7    9    1
R200    200    110    Rideal    1
*
*
***Dominant Pole at 31 kHz***
g210    210    110    Value={limit(V(200,110)*2.184e-3,3.171e-4,-3.171e-4)}
R210    210    110    Rideal    5.137e6
C210    210    110    1e-12
*
*
***Output Voltage Clamp-1***
RX2    60    210    Rideal    0.001
DzVoutP    61    60    DzVoutP
DzVoutN    60    62    DzVoutN
DVoutP    61    63    diode
DVoutN    64    62    diode
VoutP    65    63    dc    7.152
VoutN    64    66    dc    7.152
e60    65    110    111    110    1.23
e61    66    110    112    110    1.23
*
*
***Pole at 3300MHz***
g220    220    110    210    110    0.001
R220    220    110    Rideal    1000
C220    220    110    0.0482e-12
*
***Pole at 3300MHz***
g230    230    110    220    110    0.001
R230    230    110    Rideal    1000
C230    230    110    0.0482e-12
*
***Pole at 3300MHz***
g240    240    110    230    110    0.001
R240    240    110    Rideal    1000
C240    240    110    0.0482e-12
*
***Pole at 3300MHz***
g245    245    110    240    110    0.001
R245    245    110    Rideal    1000
C245    245    110    0.0482e-12
*
***Pole at 3300MHz***
g250    250    110    245    110    0.001
R250    250    110    Rideal    1000
C250    250    110    0.0482e-12
*
***Pole at 3300MHz***
g255    255    110    250    110    0.001
R255    255    110    Rideal    1000
C255    255    110    0.0482e-12
*
***Buffer***
g260    260    110    255    110    0.001
R260    260    110    Rideal    1000
*
***Buffer***
g265    265    110    260    110    0.001
R265    265    110    Rideal    1000
*
***Buffer***
g270    270    110    265    110    0.001
R270    270    110    Rideal    1000
*
***Notch: f=430MHz, Zeta=1.4, Gain=2dB***
e280    280    110    270    110    1
L280    285    281    6.427e-9
C280    281    282    21.315e-12
R281    282    110    Rideal    38.621
R280    280    285    Rideal    10
*
***Buffer***
R291    292    110    Rideal    1E6
R290    290    292    Rideal    1E-6
e290    290    110    285    110    1
e295    295    110    292    110    1
*
*
***Output Stage***
g300    300    110    295    110    0.001
R300    300    110    Rideal    1000
e301    301    110    300    110    1
Rout    302    303    Rideal     23
Lout    303    310     .2e-9
Cout    310    110     .2e-12
*
*
***Output Current Limit***
H1    301    304    Vsense1    100
Vsense1    301    302    dc    0
VIoutP    305    304    dc    7.836
VIoutN    304    306    dc    6.636
DIoutP    307    305    diode
DIoutN    306    307    diode
Rx3    307    300    Rideal    0.001
*
*
***Output Clamp-2***
VoutP1    111    73    dc    2.385
VoutN1    74    112    dc    2.385
DVoutP1    75    73    diode
DVoutN1    74    75    diode
RX4    75    310    Rideal    0.001
*
*
***Supply Currents***
FIoVcc    314    110    Vmeas8    1
Vmeas8    310    311    dc    0
R314    110    314    Rideal    1e9
DzOVcc    110    314    diode
DOVcc    102    314    diode
RX5    311    312    Rideal    0.001
FIoVee    315    110    Vmeas9    1
Vmeas9    312    313    dc    0
R315    315    110    Rideal    1e9
DzOVee    315    110    diode
DOVee    315    103    diode
*
*
***Output Switch***
S4    104    313    106    113    Switch
*
*
*** Common Models ***
.model    diode    d(bv=100)
.model    Switch    vswitch(Von=0.105,Voff=0.095,ron=0.001,roff=1e6)
.model    Sswitch    vswitch(Von=4.5,Voff=0.1,ron=1000,roff=1e6)
.model    DzVoutP    D(BV=4.3)
.model    DzVoutN    D(BV=4.3)
.model    DVnoisy    D(IS=3.75e-17 KF=3.23e-16)
.model    DINnoisy    D(IS=2.50e-16 KF=9.86e-16)
.model    DIPnoisy    D(IS=2.50e-16 KF=9.86e-16)
.model    Rideal    res(T_ABS=-273)
*
.ends ADA4899
*$
